US07812028B2
Preparation N—((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-(2-pyridin-2-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 140, using 2-ethynyl-pyridine (CAN 1945-84-2), 6-chloro-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester, and (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol as starting materials, LC at 215 nm; Rt 3.30: 98%, m/z (ES+): 470.5 (M+H).

reactant | 2-ethynyl-pyridine | C(#C)C1=NC=CC=C1 | C7H5N
reactant | 6-chloro-5-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C14H9ClF3NO2
reactant | (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol | NC[C@](O)(C1CC1)C | C6H13NO
product | N—((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-(2-pyridin-2-yl-ethyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide | C1(CC1)[C@@](CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)CCC1=NC=CC=C1)=O)(C)O | C26H26F3N3O2
